US08536343B2
Into a solution of 1.82 g of butyl 4-nitrophenyl carbonate in 15 mL of N,N-dimethylformamide, 1.50 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine was added at room temperature, and the solution was stirred at the same temperature for 2 hours. Chloroform and water were added to the reaction mixture. The organic layer was separated, washed twice with a 5% potassium carbonate aqueous solution and with a saturated sodium chloride aqueous solution successively, and dried over anhydrous magnesium sulfate, followed by solvent removal by evaporation under reduced pressure. The obtained residue was purified by a silica gel column chromatography (eluent; chloroform:methanol=4:1). The obtained solid substance was dissolved in chloroform, washed twice with a 5% potassium carbonate aqueous solution and with a saturated sodium chloride aqueous solution successively, and dried over anhydrous magnesium sulfate. After removing the solvent by evaporation under reduced pressure, 1.39 g of 4-{3-[4-(3-{4-[amino(butoxycarbonylimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-(butoxycarbonyl)benzamidine was obtained as a white solid.

reactant | butyl 4-nitrophenyl carbonate | 1.82 g | C(OCCCC)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H13NO5
reactant | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine | 1.50 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | C25H35N5O2
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-{3-[4-(3-{4-[amino(butoxycarbonylimino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}-N′-(butoxycarbonyl)benzamidine | 1.39 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=NC(=O)OCCCC)N)C=C2)C=C1)=NC(=O)OCCCC | C35H51N5O6
